US08048902B2
Step 6: (3-Methyl-5-{4′-[1-methyl-2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-yl)-2-oxo-ethyl]-biphenyl-4-yl}-isoxazol-4-yl)-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester
Diastereomer B—Prepared as described in Example 36, Step 6 using (4R,5S)-4-methyl-5-phenyl-3-{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionyl}-oxazolidin-2-one (Diastereomer B) and [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester.

reactant | (4R,5S)-4-methyl-5-phenyl-3-{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionyl}-oxazolidin-2-one | C[C@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C(C(C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C25H30BNO5
reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
product | (3-Methyl-5-{4′-[1-methyl-2-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-yl)-2-oxo-ethyl]-biphenyl-4-yl}-isoxazol-4-yl)-carbamic acid (R)-1-(2-chloro-phenyl)-ethyl ester | ClC1=C(C=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C(C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)C)C)=O | C38H34ClN3O6
